US06417189B1
b. Synthesis of 3,3-dimethyl-1-[2-(6-(3-pyridyl)hex-5-ynoyl)perhydropyridazinyl]pentane-1,2-dione
To a solution of 1-(2-hex-5-ynoylperhydropyridazinyl)-3,3-dimethylpentane-1,2-dione (0.384 g, 1.25 mmol) in 10 ml CH2Cl2under nitrogen was added 3-iodopyridine (0.283 g, 1.38 mmol), (Ph3P)2PdCl2 (0.044 g, 0.06 mmol), CuI (0.0024 g, 0.013 mmol) and triethylamine (0.3 ml, 2 mmol). The reaction mixture was stirred 30 minutes at room temperature and then refluxed overnight. The mixture was concentrated and purified by silica gel column, eluting with 30% ethyl acetate in hexane, to yield product as light yellow oil (0.31 g, 65%). 1H NMR (CDCl3, 400 MHz) δ 0.84 (t, 3H, J=7.4); 1.21 (s, 6H); 1.70 (m, 6H); 1.96(m, 2H), 2.52 (m, 3H); 2.90 (m, 2H); 3.60 (m, 1H); 4.42 (m, 2H); 7.20 (m, 1H); 7.66 (m, H); 8.49 (m, 1H); 8.62 (m, 1H).

reactant | 1-(2-hex-5-ynoylperhydropyridazinyl)-3,3-dimethylpentane-1,2-dione | 1.25 mmol, 0.384 g | C(CCCC#C)(=O)N1NCCCC1C(C(C(CC)(C)C)=O)=O | C17H26N2O3
reactant | 3-iodopyridine | 1.38 mmol, 0.283 g | IC=1C=NC=CC1 | C5H4IN
reactant | triethylamine | 2 mmol, 0.3 ml | C(C)N(CC)CC | C6H15N
catalyst | (Ph3P)2PdCl2 | 0.06 mmol, 0.044 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.013 mmol, 0.0024 g | [Cu]I
product | 3,3-dimethyl-1-[2-(6-(3-pyridyl)hex-5-ynoyl)perhydropyridazinyl]pentane-1,2-dione | 0.31 g, 65% | CC(C(C(=O)C1N(NCCC1)C(CCCC#CC=1C=NC=CC1)=O)=O)(CC)C | C22H29N3O3
